US09166177B2
Synthesis of 3,7-bis(5-methoxybiphenyl-2-yl)dibenzo[b,d]thiophene
A mixture of 3.42 g (10 mmol) of 3,7-dibromodibenzo[b,d]thiophene, 5.5 g (24 mmol) of 5-methoxybiphenyl-2-ylboronic acid, 0.12 g (0.1 mmol) of tetrakis(triphenylphosphine)palladium, 15 ml of 2M Na2CO3, 20 ml of EtOH and 60 ml toluene was degassed and placed under nitrogen, then heated at 110° C. for 8 h. After finishing the reaction, the mixture was allowed to cool to room temperature. The reaction mixture was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was evaporated in vacuum. The residue was purified by column chromatography on silica(hexane-dichloromethane) to afford a white solid (4.4 g, 8.1 mmol, 81%).

reactant | 3,7-dibromodibenzo[b,d]thiophene | 10 mmol, 3.42 g | BrC=1C=CC2=C(SC3=C2C=CC(=C3)Br)C1 | C12H6Br2S
reactant | 5-methoxybiphenyl-2-ylboronic acid | 24 mmol, 5.5 g | COC=1C=CC(=C(C1)C1=CC=CC=C1)B(O)O | C13H13BO3
reactant | Na2CO3 | 2M, 15 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 20 ml | CCO | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 3,7-bis(5-methoxybiphenyl-2-yl)dibenzo[b,d]thiophene | 8.1 mmol, 4.4 g, 81% | COC=1C=CC(=C(C1)C1=CC=CC=C1)C=1C=CC2=C(SC3=C2C=CC(=C3)C3=C(C=C(C=C3)OC)C3=CC=CC=C3)C1 | C38H28O2S
